US06727264B1
4-(3,4-DIFLUOROPHENOXY)BENZALDEHYDE:
4-Fluorobenzaldehyde (5.32 mL, 49.6 mmol), 3,4-difluorophenol (7.10 g, 54.6 mmol) and K2CO3 (8.31 g, 60.1 mmol) were combined in a flask, which was immediately flushed with argon. DMF (50.0 mL) was added and the mixture was heated at ref lux under argon for 6 h. Upon cooling to room temperature, EtOAc (100 mL) and H2O (100 mL) were added; the ethyl acetate layer was separated and washed with H2O (2×100 mL). The combined organic layers were washed with brine, dried over MgSO4, and the solvent was removed in vacuo. The desired product was obtained (11.4 g, 98.0%): 1H NMR (400 MHz, CDCl3) δ 9.95 (s, 1H), 7.88 (dd, 2H, J=0.8 Hz, 8.8 Hz), 7.24-7.17 (m, 1H), 7.07 (d, 2H, J=8.8 Hz), 6.97-6.92 (m, 1H), 6.86-6.82 (m, 1H); ESMS m/e: 235.0 (M+H)+.

reactant | 4-Fluorobenzaldehyde | 49.6 mmol, 5.32 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3,4-difluorophenol | 54.6 mmol, 7.10 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | K2CO3 | 60.1 mmol, 8.31 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-(3,4-DIFLUOROPHENOXY)BENZALDEHYDE | FC=1C=C(OC2=CC=C(C=O)C=C2)C=CC1F | C13H8F2O2
